US03957819
Reaction of 3-(m-fluorophenyl-2-(3-hydroxypropylamino)-3H-indol-3-ol with thionylchloride by a procedure analogous to that described in Example 2 gives 3-(m-fluorophenyl)-2-(3-chloropropylamino)-3H-indol-3-ol.

reactant | m-fluorophenyl-2-(3-hydroxypropylamino)-3H-indol-3-ol | FC=1C=C(C=CC1)C1(C(=NC2=CC=CC=C12)NCCCO)O | C17H17FN2O2
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
product | 3-(m-fluorophenyl)-2-(3-chloropropylamino)-3H-indol-3-ol | FC=1C=C(C=CC1)C1(C(=NC2=CC=CC=C12)NCCCCl)O | C17H16ClFN2O
